US08614220B2
N-(5-Bromo-2-trifluoromethoxy-phenyl)-guanidine
To a suspension of 5-bromo-2-trifluoromethoxy-phenylamine (5.0 g, 19.5 mmol) in EtOH (15 mL), cyanamide (1.64 g, 39 mmol) dissolved in 5 mL of EtOH and 1 mL H2O, and HCl 37% (3.25 mL) diluted in 10 mL EtOH were added drop wise into the mixture under stirring. The mixture was refluxed for 72 h. The mixture was cooled down to room temperature, concentrated then diluted with water; NaOH 1N was added to basic pH and extracted several times with ethyl acetate, dried over sodium sulfate and concentrated to afford 5.2 g of the title compound (89% yield).

reactant | 5-bromo-2-trifluoromethoxy-phenylamine | 19.5 mmol, 5.0 g | BrC=1C=CC(=C(C1)N)OC(F)(F)F | C7H5BrF3NO
reactant | cyanamide | 39 mmol, 1.64 g | N#CN | CH2N2
reactant | HCl | 3.25 mL | Cl | ClH
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | H2O | 1 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-(5-Bromo-2-trifluoromethoxy-phenyl)-guanidine | 5.2 g, 89% yield | BrC=1C=CC(=C(C1)NC(=N)N)OC(F)(F)F | C8H7BrF3N3O
